US07576115B2
Synthesis of methyl 5-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-thiophenecarboxylate
From 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (200 mg, 0.70 mmol) synthesized in Synthetic Example 11, methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate (0.70 mmol, 140.9 mg) of Reference Synthetic Example 39 and tosylic acid monohydrate (36.4 mg, 0.21 mmol), 188.2 mg of the desired product was obtained in the same manner as in Synthetic Example 58 as a pale yellow solid (yield 57%).

reactant | 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.70 mmol, 200 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate | 0.70 mmol, 140.9 mg | N(N)C(=O)C1=CC=C(S1)C(=O)OC | C7H8N2O3S
reactant | tosylic acid monohydrate | 0.21 mmol, 36.4 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
product | methyl 5-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-thiophenecarboxylate | 188.2 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC | C20H17F3N4O4S
